US08486939B2
A mixture of 2-(methylsulfanyl)-1H-benzimidazole (1.64 g, 10 mmol), 2,4-dichloro-6-(4-morpholinyl)-1,3,5-triazine (2.35 g, 10 mmol), and powdered K2CO3 (11 g, 80 mmol) in DMF (50 mL) was stirred at room temperature for 1 hr. The mixture was diluted with water and the resulting precipitate was collected, washed with water and then ethanol, and dried to give 3.56 g (98% yield) of 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(methylsulfanyl)-1H-benzimidazole: mp (CHCl3/EtOH) 260-261° C.; 1H NMR (CDCl3) δ 8.42 (br dd, J=7.0, 1.9 Hz, 1H), 7.65 (br dd, J=6.8, 1.9 Hz, 1H), 7.30 (m, 2H), 4.06 (m, 2H), 3.95 (m, 2H), 3.84 (m, 2H), 3.80 (m, 2H), 2.74 (s, 3H); Anal. Calcd. for C1sH15ClN6OS: C, 49.65; H, 4.2; N, 23.2. Found: C, 49.8; H, 4.1; N, 23.1%.

reactant | 2-(methylsulfanyl)-1H-benzimidazole | 10 mmol, 1.64 g | CSC1=NC2=C(N1)C=CC=C2 | C8H8N2S
reactant | 2,4-dichloro-6-(4-morpholinyl)-1,3,5-triazine | 10 mmol, 2.35 g | ClC1=NC(=NC(=N1)Cl)N1CCOCC1 | C7H8Cl2N4O
reactant | K2CO3 | 80 mmol, 11 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(methylsulfanyl)-1H-benzimidazole | 3.56 g, 98% yield | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)SC | C15H15ClN6OS
